US06852731B2
N-(4-Chlorobenzyl)-2-formyl-4-methyl-7-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
To a cold (−78° C.), stirred mixture of 2.03 g of N-(4-chlorobenzyl)-4-methyl-7-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide in 50 mL of dry TBF is added via cannula a solution of LDA, prepared as usual in 25 mL of dry THF from 2.5 mL of diisopropylamine and 5.3 mL of a 2.5 M solution of butyllithium in hexanes. The resulting deeply colored solution is stirred for 5 min at −78° C., then 1.7 mL of dry DMF is added, causing the mixture to solidify. The mixture is allowed to warm to 0° C. whereupon it becomes fluid, and is quenched with 50 mL of 1N HCl. Aqueous workup (CH2Cl2, dil. HCl) followed by flash chromatography on silica gel using 30-40% EtOAc in CH2Cl2 affords 1.56 g of the title compound as a yellow solid. Recrystallization from EtOAc provides pale yellow crystals.

reactant | N-(4-chlorobenzyl)-4-methyl-7-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 2.03 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=CS3)COCC[Si](C)(C)C)=O)C=C1 | C22H27ClN2O3SSi
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 2.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | THF | 25 mL | C1CCOC1 | C4H8O
solvent | DMF | 1.7 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-2-formyl-4-methyl-7-oxo-3-{[2-(trimethylsilyl)ethoxy]methyl}4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 1.56 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)C=O)COCC[Si](C)(C)C)=O)C=C1 | C23H27ClN2O4SSi
